* Qucs 1.1.0 C:/Projects/rlc2ss/qucs/mutual_inductor.sch
.INCLUDE "C:/Programs/qucs_s_win64/share/qucs-s/xspice_cmlib/include/ngspice_mathfunc.inc"
* Qucs 1.1.0  C:/Projects/rlc2ss/qucs/mutual_inductor.sch
V1 _net0 0 DC 1
V2 _net1 0 DC 1
L1 N1 _net2  1;
L2 N2 _net2  1;
L3 N3 _net2  1;
K12 L1 L2 0.9;
K21 L2 L3 0.9;
K31 L3 L1 0.9;
R2 _net1 N2  10;
R1 _net0 N1  10;
R3 _net3 N3  10E-3;I;
V3 _net3 0 DC 1I;
R4 _net4 _net5  10;I;
FSRC1 _net4 0  VSRC1 10;
VSRC1 _net2 0 DC 0
Cf 0 _net5  100E-6;
.control
set filetype=ascii
op
print all > spice4qucs.cir.dc_op
destroy all
quit
.endc
.end
